US05137879
N-[2-(4-methoxyphenyl)ethyl]furo[2,3-d]pyrimidin-4-amine
The 2-amino-3-cyanofuran produced in the preceding step was combined with 4.2 mL of triethylorthoformate, and 0.5 mL of acetic anhydride, and the mixture was heated to 130° C. for two hours. Then was added 1.8 g of sodium acetate and 3 g of 2-(4-methoxyphenyl)ethylamine, followed by 3 mL of acetic acid. The resulting mixture was heated for two hours at 130°-138° C., then cooled and diluted with water. The product was extracted with large volumes of ether. The ether extracts were combined, washed with water, dried over magnesium sulfate, and concentrated. The residue was recrystallized from ether and petroleum ether. Yield 0.65 g. M.P. 135°-136° C.

reactant | 2-amino-3-cyanofuran | NC=1OC=CC1C#N | C5H4N2O
reactant | triethylorthoformate | 4.2 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 1.8 g | C(C)(=O)[O-].[Na+]
reactant | 2-(4-methoxyphenyl)ethylamine | 3 g | COC1=CC=C(C=C1)CCN | C9H13NO
solvent | water | O | H2O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | N-[2-(4-methoxyphenyl)ethyl]furo[2,3-d]pyrimidin-4-amine | COC1=CC=C(C=C1)CCNC=1C2=C(N=CN1)OC=C2 | C15H15N3O2
